US04554276
6-(p-Chlorophenyl)hexanoic acid (V).
A mixture of 49.3 g (0.219 mole) of 6-(p-chlorophenyl)hex-5-enoic acid, 3.0 g of 10% Pd/C, and 300 ml of ethyl acetate was hydrogenated at 45 psi and room temperature for 20 hours. The catalyst was removed by filtration through a Celite pad, and the filtrate concentrated to give 21.3 g (43%) of V as an oil, which was used without further purification.

reactant | 6-(p-chlorophenyl)hex-5-enoic acid | 0.219 mole, 49.3 g | ClC1=CC=C(C=C1)C=CCCCC(=O)O | C12H13ClO2
catalyst | Pd/C | 3.0 g | [Pd] | Pd
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 6-(p-Chlorophenyl)hexanoic acid | ClC1=CC=C(C=C1)CCCCCC(=O)O | C12H15ClO2
